US03963706
c. 1-Phenyl-3-(2-methyl-4-sulphamoylphenyl)-imidazolidin-4-one
2-Phenylamino-N-(2-methyl-4-sulphamoylphenyl)-acetamide (16 g) was dissolved in ethano, (320 ml) and paraformaldehyde (1.9 g) in water (640 ml) added. The mixture was refluxed 11/2 hr, cooled and filtered. The residue was crystallised from DMF/water to yield 16 g, m.p. 206°-210°.

reactant | 2-Phenylamino-N-(2-methyl-4-sulphamoylphenyl)-acetamide | 16 g | C1(=CC=CC=C1)NCC(=O)NC1=C(C=C(C=C1)S(N)(=O)=O)C | C15H17N3O3S
reactant | paraformaldehyde | 1.9 g | C=O | CH2O
solvent | water | 640 ml | O | H2O
product | 1-Phenyl-3-(2-methyl-4-sulphamoylphenyl)-imidazolidin-4-one | C1(=CC=CC=C1)N1CN(C(C1)=O)C1=C(C=C(C=C1)S(N)(=O)=O)C | C16H17N3O3S
